2160-04-08 07:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -PEEP increased to 12.
   -ABG: 7.33/47/105.  No changes made.
   -Low urine output all night, gave boluses of fluid
   Pt reports he is not in any pain.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2160-4-8**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-4-8**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38.2
C (100.7
   HR: 68 (57 - 72) bpm
   BP: 131/50(74) {58/25(51) - 131/56(76)} mmHg
   RR: 18 (14 - 19) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  9,137 mL
                                                                  3,396 mL
   PO:
             TF:
   IVF:
                                                                  7,669 mL
                                                                  3,396 mL
   Blood products:
                                                                  1,468 mL
   Total out:
                                                                  2,950 mL
                                                                    130 mL
   Urine:
                                                                    150 mL
                                                                    130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,187 mL
                                                                  3,266 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 600 (600 - 750) mL
   RR (Set): 18
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI: 56
   PIP: 30 cmH2O
   Plateau: 24 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 96%
   ABG: 7.33/43/105/20/-3
   Ve: 10.7 L/min
   PaO2 / FiO2: 263
   Physical Examination
   GENERAL - intubated, awake, answers questions appropriatly, follows
   commands.
   NECK - thick, unable to assess JVP
   LUNGS - CTA bilat, no r/rh/wh, good air movement, resp unlabored, no
   accessory muscle use
   HEART - distant heart sounds, No murmurs.
   ABDOMEN - soft/NT/ND,
   EXTREMITIES - no c/c/e
   Labs / Radiology
   368 K/uL
   8.4 g/dL
   211 mg/dL
   1.8 mg/dL
   20 mEq/L
   5.0 mEq/L
   21 mg/dL
   108 mEq/L
   134 mEq/L
   25.6 %
   10.8 K/uL
        [image002.jpg]
                             [**2160-4-7**]  11:21 PM
                             [**2160-4-7**]  11:30 PM
                             [**2160-4-8**]  04:09 AM
   WBC
   10.8
   Hct
   26.6
   25.6
   Plt
   368
   Cr
   1.8
   TCO2
   24
   Glucose
   211
   Other labs: PT / PTT / INR:14.2/25.6/1.2, Differential-Neuts:80.7 %,
   Lymph:11.8 %, Mono:6.7 %, Eos:0.6 %, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL,
   PO4:5.0 mg/dL
   Assessment and Plan
   61M with metastatic left renal renal cell carcinoma with multiple
   pulmonary lesions and a left renal vein tumor thrombus, now open
   debulking radical nephrectomy and renal vein tumor thrombectomy admited
   to the ICU for vent monitoring/extubation and intensive care
   monitoring.
   #. Intubation: Patient has a history of recently diagnosed sleep apnea
   not on CPAP and a history of smoking without known lung disease.
   Sedation mixed with an element of OSA may have caused him to retain CO2
   initially.  He was unable to be extubated post op and was admited to
   the ICU overnight for close monitoring.  His ABG from 1430 was normal
   -Check ABG in am
   -RSBI
   -SBT
   -Attempt to extubate if above goes well.
   .
   #. Leukocytosis:  Patient without a clear source of infection at this
   time.  Concerns include pulmonary and urologic.  Recent urine culture
   from [**2160-4-5**] negative.  Lactate was normal.  Afebrile.  Of note patient
   has had a persistent elevation of his WBC throughout [**2159**] ranging from
   [**10-17**].  Currently slightly higher.  [**Month (only) 51**] be related to cancer.  Holding
   on antibiotic treatment at this time.
   - F/u culture data blood and urine
   - fluids
   .
   #. Diabetes: Holding metformin currently.  Will cover with ISS
   .
   #. HTN: currently not hypertensive.  Holding antihypertensives.  A-line
   in place.  Goal MAP > 60.
   - Aggressive fluids overnight
   - MAP > 60
   - Hold antihypertensives.
   .
   #. BPH: Not on medications.  monitor for now.
   .
   #. Hyperkalemia: In the setting of blood and surgery.  Has come down
   overnight with fluids.  Still elevated.  Will continue to give fluids
   as likely high K was iatrogenic.
   .
   #. Renal cell carcinoma and prostate cancer: Onc and urology closely
   involved.  Patient s/p tumor debulking today. He is currently enrolled
   in a trial "Vaccination of patients with Renal cell Cancer with
   Dendritic Cell Tumor Fusions and GM-CSF". Patient will continue with
   protocol.
   - Onc follow up
   - Urology follow up
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2160-4-7**] 06:00 PM
   16 Gauge - [**2160-4-7**] 06:01 PM
   18 Gauge - [**2160-4-7**] 06:01 PM
   20 Gauge - [**2160-4-7**] 06:02 PM
   Prophylaxis:
   DVT: Hep SC and pneumoboots
   Stress ulcer: Not indicated
   VAP:  On vent precautions
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU until extubated.

2160-04-09 07:55:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -CXR- in comparison with study of [**4-7**], the multiple metastatic nodules
   and masses within the lungs are again seen. There is mild
   indistinctness of pulmonary vessels, suggestive of some elevated
   pulmonary venous pressure. Bibasilar atelectatic changes are seen. The
   hemidiaphragms are not sharply visualized, raising the possibility of
   some developing pleural effusion.
   -extubated
   -hydral 10mg x1
   -restarted Norvasc 10mg (also on HCTZ 25 and ACEI- dose not certain)
   -uro recs- stay overnight in ICU d/t concern of hypoxia/OSA
   -pain recs- continue epidural inj at 6-10 cc/hr
   -neg urine cx
   -=desatted to high 80s overnight, usually when NC fell off.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2160-4-8**] 06:25 PM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2160-4-8**] 11:55 AM
   Heparin Sodium (Prophylaxis) - [**2160-4-9**] 06:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-4-9**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.9
C (100.2
   HR: 82 (67 - 96) bpm
   BP: 142/55(77) {125/50(71) - 172/71(88)} mmHg
   RR: 24 (15 - 34) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  5,927 mL
                                                                    946 mL
   PO:
             TF:
   IVF:
                                                                  5,927 mL
                                                                    946 mL
   Blood products:
   Total out:
                                                                  1,360 mL
                                                                    385 mL
   Urine:
                                                                  1,360 mL
                                                                    385 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,567 mL
                                                                    561 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CMV/ASSIST
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 18
   RR (Spontaneous): 1
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI: 68
   PIP: 26 cmH2O
   Plateau: 19 cmH2O
   Compliance: 66.7 cmH2O/mL
   SpO2: 92%
   ABG: ///18/
   Ve: 10.8 L/min
   Physical Examination
   GENERAL - intubated, awake, answers questions appropriatly, follows
   commands.
   NECK - thick, unable to assess JVP
   LUNGS - CTA bilat, no r/rh/wh, good air movement, resp unlabored, no
   accessory muscle use
   HEART - distant heart sounds, No murmurs.
   ABDOMEN - soft/NT/ND,
   EXTREMITIES - no c/c/e
   Labs / Radiology
   362 K/uL
   7.3 g/dL
   117 mg/dL
   1.3 mg/dL
   18 mEq/L
   4.2 mEq/L
   16 mg/dL
   108 mEq/L
   136 mEq/L
   21.8 %
   12.6 K/uL
        [image002.jpg]
                             [**2160-4-7**]  11:21 PM
                             [**2160-4-7**]  11:30 PM
                             [**2160-4-8**]  04:09 AM
                             [**2160-4-9**]  03:13 AM
   WBC
   10.8
   12.6
   Hct
   26.6
   25.6
   21.8
   Plt
   368
   362
   Cr
   1.8
   1.3
   TCO2
   24
   Glucose
   211
   117
   Other labs: PT / PTT / INR:14.2/25.6/1.2, Differential-Neuts:80.7 %,
   Lymph:11.8 %, Mono:6.7 %, Eos:0.6 %, Ca++:7.5 mg/dL, Mg++:2.0 mg/dL,
   PO4:5.0 mg/dL
   Assessment and Plan
   61M with metastatic left renal renal cell carcinoma with multiple
   pulmonary lesions and a left renal vein tumor thrombus, now open
   debulking radical nephrectomy and renal vein tumor thrombectomy admited
   to the ICU for vent monitoring/extubation and intensive care
   monitoring.
   #. Respiratory status: Patient has a history of recently diagnosed
   sleep apnea not on CPAP and a history of smoking without known lung
   disease.  Sedation mixed may have caused him to retain CO2 initially.
   He was unable to be extubated post op and was admited to the ICU
   overnight for close monitoring.  He is now extubated and did well
   overnight with occasional sats in the upper 80s.  This was usually
   associated with his NC falling off.
   -NC when sleeping.  Trial of CPAP possibly in house so patient can go
   home with positive pressure until he gets a formal sleep study.
   .
   #. Leukocytosis:  Patient without a clear source of infection at this
   time.  Concerns include pulmonary and urologic.  Recent urine culture
   from [**2160-4-5**] negative.  Lactate was normal.  Afebrile.  Of note patient
   has had a persistent elevation of his WBC throughout [**2159**] ranging from
   [**10-17**].  He seems to be at his baseline.
   - F/u culture data blood and urine
   - fluids
   .
   #. Diabetes: Holding metformin currently.  Will cover with ISS
   .
   #. HTN: currently not hypertensive.  Holding antihypertensives.  Plan
   on restarting home HTN medications today.
   - Aggressive fluids overnight
   - MAP > 60
   .
   #. BPH: Not on medications.  monitor for now.
   .
   #. Hyperkalemia: In the setting of blood and surgery.  Has come down
   overnight with fluids.  Still elevated.  Will continue to give fluids
   as likely high K was iatrogenic.
   .
   #. Renal cell carcinoma and prostate cancer: Onc and urology closely
   involved.  Patient s/p tumor debulking today. He is currently enrolled
   in a trial "Vaccination of patients with Renal cell Cancer with
   Dendritic Cell Tumor Fusions and GM-CSF". Patient will continue with
   protocol.
   - Onc follow up
   - Urology follow up
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2160-4-7**] 06:01 PM
   18 Gauge - [**2160-4-7**] 06:01 PM
   20 Gauge - [**2160-4-7**] 06:02 PM
   Prophylaxis:
   DVT: Hep SC and pneumoboots
   Stress ulcer: Not indicated
   VAP:  On vent precautions
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Call out to floor today.
   ------ Protected Section ------
   Physical exam: Please disregard above as not updated:
   GENERAL -awake, answers questions appropriatly, follows commands.
   NECK - thick, unable to assess JVP
   LUNGS - CTA bilat, no r/rh/wh, resp unlabored, no accessory muscle use
   HEART - distant heart sounds, No murmurs.
   ABDOMEN - soft/NT/ND,
   EXTREMITIES - no c/c/e
   Off vent precautions.
   Dispo: to floor.
   ------ Protected Section Addendum Entered By:[**Name (NI) 7266**] [**Last Name (NamePattern1) 7267**], MD
   on:[**2160-4-9**] 11:18 ------

2160-04-09 11:17:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Renal Cell Ca--s/p Laparotomy
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2160-4-8**] 08:07 AM
 ARTERIAL LINE - STOP [**2160-4-8**] 01:08 PM
   Reasonable saturations on supplemental oxygen across the night
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2160-4-8**] 06:25 PM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2160-4-8**] 11:55 AM
   Heparin Sodium (Prophylaxis) - [**2160-4-9**] 06:12 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-4-9**] 11:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.1
C (98.8
   HR: 83 (80 - 96) bpm
   BP: 141/89(97) {141/50(74) - 168/89(97)} mmHg
   RR: 26 (19 - 34) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  5,927 mL
                                                                  1,133 mL
   PO:
             TF:
   IVF:
                                                                  5,927 mL
                                                                  1,133 mL
   Blood products:
   Total out:
                                                                  1,360 mL
                                                                    645 mL
   Urine:
                                                                  1,360 mL
                                                                    645 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,567 mL
                                                                    488 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///18/
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.3 g/dL
   362 K/uL
   117 mg/dL
   1.3 mg/dL
   18 mEq/L
   4.2 mEq/L
   16 mg/dL
   108 mEq/L
   136 mEq/L
   21.8 %
   12.6 K/uL
        [image002.jpg]
                             [**2160-4-7**]  11:21 PM
                             [**2160-4-7**]  11:30 PM
                             [**2160-4-8**]  04:09 AM
                             [**2160-4-9**]  03:13 AM
   WBC
   10.8
   12.6
   Hct
   26.6
   25.6
   21.8
   Plt
   368
   362
   Cr
   1.8
   1.3
   TCO2
   24
   Glucose
   211
   117
   Other labs: PT / PTT / INR:14.2/25.6/1.2, Differential-Neuts:80.7 %,
   Lymph:11.8 %, Mono:6.7 %, Eos:0.6 %, Ca++:7.5 mg/dL, Mg++:2.0 mg/dL,
   PO4:5.0 mg/dL
   Assessment and Plan
   61 yo male with Renal Cell CA now s/p tumor debulking and with
   admission to ICU with post operatively with persistent respiratory
   failure.  He now has had good stability following extubation.  This
   issue of concern was potential for overnight desaturations without CPAP
   treatment but he did appear able to tolerate with supplemental oxygen
   only.
   1)Respiratory Failure-
   -Will continue with supplemental oxygen and wean as tolerated
   -OOB to chair and ambulate when Epidural disctontinued or approved by
   pain service
   -Continue with incentive spirometry
   2)Renal Cell Cancer-
   -S/P exp lap
   -Further Rx by surgery team and oncology
   ICU Care
   Nutrition: po diet to advance
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   16 Gauge - [**2160-4-7**] 06:01 PM
   18 Gauge - [**2160-4-7**] 06:01 PM
   20 Gauge - [**2160-4-7**] 06:02 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 40 minutes